US04362887
Preparation of 1,3-bis-(phenylthio)-2-propyl 3-(dodecylthio)propionate
A solution of 15 grams of 1,3-bis-(phenylthio)-2-propyl acrylate, 9.2 grams of dodecanethiol, and 1 milliliter of "Triton B" in 75 milliliters of ethanol was heated under reflux for 53/4 hours. The reaction mixture was allowed to cool and was then poured into water. The oil which precipitated was separated by extraction with toluene and the toluene solution was stripped on a rotary evaporator. There remained 24.0 grams of a light colored oil which was identified as 1,3-bis-(phenylthio)-2-propyl 3-(dodecylthio)propionate by means of its NMR spectrum.

reactant | 1,3-bis-(phenylthio)-2-propyl acrylate | 15 grams | C(C=C)(=O)OC(CSC1=CC=CC=C1)CSC1=CC=CC=C1 | C18H18O2S2
reactant | dodecanethiol | 9.2 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | water | O | H2O
solvent | ethanol | 75 milliliters | C(C)O | C2H6O
product | 1,3-bis-(phenylthio)-2-propyl 3-(dodecylthio)propionate | C(CCCCCCCCCCC)SCCC(=O)OC(CSC1=CC=CC=C1)CSC1=CC=CC=C1 | C30H44O2S3
